US06660744B1
The same procedure used to prepare N1-(4-{4-Amino-1-[2-cyano-4-(4-methylpiperazino)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-2,3-dichloro-1-benzenesulfonamide was employed, except that the final step employed the procedure for urea formation used to prepare ethyl 2-(4-amino-3-{3-fluoro-4-[(3-toluidinocarbonyl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)acetate, entailing the reaction of 2-[4-amino-3-(4-amino-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-5-(4-methylpiperazino)benzonitrile (0.018 g, 0.041 mmol) with m-tolyl isocyanate (0.005 mL, 0.040 mmol). Purification of the product by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 9.3-10.3 min) afforded N-(4-{4-amino-1-[2-cyano-4-(4-methylpiperazino)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-N′-(3-methylphenyl)urea as a yellow powder (0.008 g, 0.014 mmol); RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 8.03 min; MS (MH)+ 577.

reactant | N1-(4-{4-Amino-1-[2-cyano-4-(4-methylpiperazino)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-2,3-dichloro-1-benzenesulfonamide | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)C2=C(C=C(C=C2)N2CCN(CC2)C)C#N | C29H24Cl2FN9O2S
reactant | urea | NC(=O)N | CH4N2O
reactant | ethyl 2-(4-amino-3-{3-fluoro-4-[(3-toluidinocarbonyl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)acetate | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)NC=2C=C(C=CC2)C)F)CC(=O)OCC | C23H22FN7O3
reactant | 2-[4-amino-3-(4-amino-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-5-(4-methylpiperazino)benzonitrile | 0.041 mmol, 0.018 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N)F)C2=C(C#N)C=C(C=C2)N2CCN(CC2)C | C23H22FN9
reactant | m-tolyl isocyanate | 0.040 mmol, 0.005 mL | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
product | N-(4-{4-amino-1-[2-cyano-4-(4-methylpiperazino)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-N′-(3-methylphenyl)urea | 0.014 mmol, 0.008 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)NC2=CC(=CC=C2)C)F)C2=C(C=C(C=C2)N2CCN(CC2)C)C#N | C31H29FN10O
